US07001914B2
(R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-(hydroxymethyl)phenyl)thiophene-2-carboxamide)
To the solution of (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-(3-formylphenyl)thiophene-2-carboxamide) (875 mg) in methanol (15 mL), sodium borohydride (97.2 mg) was added. The mixture was then stirred at room temperature for 4 h. The residue was partitioned between water and chloroform. The extracts were dried over magnesium sulfate, filtered, and evaporated, and the residue was then purified by flash chromatography using 5-20% 3.5M methanolic ammonia/chloroform mixtures as the eluent to give the title compound (547 mg); MS (ES+) 343 (MH+).

reactant | (R)-N-(1-azabicyclo[2.2.2]oct-3-yl)(5-(3-formylphenyl)thiophene-2-carboxamide) | 875 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=CC2)C2=CC(=CC=C2)C=O | C19H20N2O2S
reactant | sodium borohydride | 97.2 mg | [BH4-].[Na+]
solvent | methanol | 15 mL | CO | CH4O
product | (R)-N-(1-Azabicyclo[2.2.2]oct-3-yl)(5-(3-(hydroxymethyl)phenyl)thiophene-2-carboxamide) | 547 mg | N12C[C@@H](C(CC1)CC2)NC(=O)C=2SC(=CC2)C2=CC(=CC=C2)CO | C19H22N2O2S
